US06544985B2
To a stirred solution of 3-tert-butoxycarbonylacetyl-benzoic acid methyl ester (11.1 g) and allyl bromide (3.0 mL) in DMF (40 mL) was added portionwise at 0° C. NaH (55% dispersion in mineral oil, 1.44 g). Stirring was continued at 0° C. for 20 min and at 20° C. for 30 min. The mixture was partitioned between AcOEt and brine, the pH being set to 7 by the addition of 3N HCl. The organic layer was dried and evaporated. The residual oil was stirred in a mixture of CH2Cl2 (30 mL) and TFA (30 mL) for 40 min at 20° C. The solvents were evaporated. The solution of the residue in AcOEt was extracted with ice-cold sat. Na2CO3 solution and the aqueous extracts were immediately acidified with 3N HCl and extracted with AcOEt. The solvent of this extract was evaporated and the residue heated in a mixture of toluene (40 mL) and 3N HCl (2 mL) to 100° C. for 1 h. The cooled mixture was diluted with AcOEt, washed with sat. NaHCO3 and brine, dried and evaporated to give 3-pent-4-enoyl-benzoic acid methyl ester (5.11 g) as a pale-yellow oil, MS (ISP) 236.2 [(M+NH4)+].

reactant | 3-tert-butoxycarbonylacetyl-benzoic acid methyl ester | 11.1 g | COC(C1=CC(=CC=C1)C(CC(=O)OC(C)(C)C)=O)=O | C15H18O5
reactant | allyl bromide | 3.0 mL | C(C=C)Br | C3H5Br
reactant | NaH | 1.44 g | [H-].[Na+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-pent-4-enoyl-benzoic acid methyl ester | 5.11 g | COC(C1=CC(=CC=C1)C(CCC=C)=O)=O | C13H14O3
